US09216999B2
1-Cyclohexyl-7-{[2-(trimethylsilyl)ethoxy]methyl}-1,2,4,7-tetrahydropyrrolo[3′,2′:5,6]pyrido[4,3-d][1,3]oxazine
[4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol (38 mg, 0.10 mmol) and aqueous formaldehyde (35 wt %, 0.6 mL, 8 mmol) in ethanol (2 mL) were stirred at 75° C. for 1 hour. The reaction mixture was then stirred with acetic acid (1 mL) at 75° C. for 1 hour, allowed to cool to room temperature, and after addition of saturated aqueous sodium hydrogen carbonate, extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1 (v/v)) to give the title compound as a colorless oil (19.8 mg, yield 51%).

reactant | [4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol | 0.10 mmol, 38 mg | C1(CCCCC1)NC1=C2C(=NC=C1CO)N(C=C2)COCC[Si](C)(C)C | C20H33N3O2Si
reactant | formaldehyde | 8 mmol, 0.6 mL | C=O | CH2O
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-Cyclohexyl-7-{[2-(trimethylsilyl)ethoxy]methyl}-1,2,4,7-tetrahydropyrrolo[3′,2′:5,6]pyrido[4,3-d][1,3]oxazine | 19.8 mg, yield 51% | C1(CCCCC1)N1COCC2=C1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C | C21H33N3O2Si
